US07101918B2
In 50 ml of dichloromethane were dissolved 6.07 g (0.03 mol) of diphenylsulfoxide and 11.2 g (0.06 mol) of diphenylsulfide, and 7.56 g (0.036 mol) of trifluoroacetic anhydride was poured thereinto at 0° C. Then 9.0 g (0.03 mol) of nonafluorobutanesulfonic acid was added dropwise at 0 to 5° C., followed by gradually warming to room temperature and reacting for 2 hours with stirring. After completion of the reaction, the reaction solution was washed with 100 ml of water five times and concentrated under reduced pressure, followed by purifying the resulting crude product by a column chromatography to obtain 7.85 g (Yield: 39%) of diphenyl-4-phenylthiophenylsulfonium nonafluorobutanesulfonate as a yellow oily substance.

reactant | diphenylsulfoxide | 0.03 mol, 6.07 g | C1(=CC=CC=C1)S(=O)C1=CC=CC=C1 | C12H10OS
reactant | diphenylsulfide | 0.06 mol, 11.2 g | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
reactant | trifluoroacetic anhydride | 0.036 mol, 7.56 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | nonafluorobutanesulfonic acid | 0.03 mol, 9.0 g | FC(C(C(C(S(=O)(=O)O)(F)F)(F)F)(F)F)(F)F | C4HF9O3S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | diphenyl-4-phenylthiophenylsulfonium nonafluorobutanesulfonate | 7.85 g, Yield: 39% | FC(C(C(C(S(=O)(=O)[O-])(F)F)(F)F)(F)F)(F)F.C1(=CC=CC=C1)[S+](C1=CC=C(C=C1)SC1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H19S2.C4HF9O3S/c1-4-10-20(11-5-1)25-21-16-18-24(19-17-21)26(22-12-6-2-7-13-22)23-14-8-3-9-15-23;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h1-19H;(H,14,15,16)/q+1;/p-1
